US07776882B2
Step G: 4-cyano-5-(2-nitro-5-phenoxy-phenyl)-pentanoic acid
2-(2-nitro-5-phenoxy-benzyl)-hex-5-enenitrile (1.07 g, 3.31 mmol) was dissolved in a mixture of acetonitrile (10 mL) and carbon tetrachloride (10 mL). In a separate vial sodium periodate (2.84 g, 13.28 mmol) was dissolved in water (15 mL) and this solution was added to the reaction mixture followed by ruthenium trichloride (0.021 g, 0.100 mmol). The reaction mixture was stirred vigorously for 16 h, and the next morning the reaction mixture was added to a separatory funnel with dichloromethane. The organic layer washed 3 times with 1N HCl and one time with saturated brine solution. The organic layer was dried with sodium sulfate, filtered and the solvent was removed under reduced pressure to yield a residue.

reactant | 2-(2-nitro-5-phenoxy-benzyl)-hex-5-enenitrile | 3.31 mmol, 1.07 g | [N+](=O)([O-])C1=C(CC(C#N)CCC=C)C=C(C=C1)OC1=CC=CC=C1 | C19H18N2O3
reactant | sodium periodate | 13.28 mmol, 2.84 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | water | 15 mL | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | ruthenium trichloride | 0.100 mmol, 0.021 g | [Ru](Cl)(Cl)Cl
product | 4-cyano-5-(2-nitro-5-phenoxy-phenyl)-pentanoic acid | C(#N)C(CCC(=O)O)CC1=C(C=CC(=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C18H16N2O5
